US09428499B2
Step-b: Synthesis of 3-Amino-N-(tetrahydro-2H-pyran-4-yl)benzamide
To a mixture of 3-Nitro-N-(tetrahydro-2H-pyran-4-yl)benzamide (360 mg, 1.439 mmol), ammonium formate (272 mg, 4.32 mmol) in methanol (20 ml) at 0° C., was added Pd/C (10%, 0.04 g) and the reaction mixture was stirred at 60° C. for 1 hrs. The reaction mixture was cooled to room temperature and filtered through celite, the filtrate was concentrated under vacuum. The residue was taken in ethyl acetate and the organic layer was washed with water and brine, dried over sodium sulfate and concentrated under vacuum to afford the title compound (300 mg).

reactant | 3-Nitro-N-(tetrahydro-2H-pyran-4-yl)benzamide | 1.439 mmol, 360 mg | [N+](=O)([O-])C=1C=C(C(=O)NC2CCOCC2)C=CC1 | C12H14N2O4
reactant | ammonium formate | 4.32 mmol, 272 mg | C(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 0.04 g | [Pd] | Pd
product | 3-Amino-N-(tetrahydro-2H-pyran-4-yl)benzamide | 300 mg | NC=1C=C(C(=O)NC2CCOCC2)C=CC1 | C12H16N2O2
